US08349880B2
Step K (2): 10% Palladium on carbon (1.0 g) was added under an atmosphere of nitrogen to a solution of 4-(2-methoxy-4-nitrophenyl)-1-methyl-1H-pyrazole (10.0 g, 42.9 mmol) in methanol (100 mL). The flask was repeated evacuated and flushed with hydrogen gas. The resulting mixture was allowed to stir at rt for 16 h under. The reaction vessel was purged with nitrogen gas. The crude reaction mixture was filtered through a short diatomaceous earth (Celite®) plug. Rinsed reaction vessel and plug with methanol. Concentrated filtrate in vacuo. Dried residue on high vacuum overnight to afford 3-methoxy-4-(1-methyl-1H-pyrazol-4-yl)aniline (6.8 g, 78% yield). LC-MS (M+H)+ 204.2. 1H NMR (400 MHz, DMSO-d6) δ ppm 7.84 (s, 1 H) 7.66 (s, 1 H) 7.19 (d, J=8.2 Hz, 1 H) 6.28 (s, 1 H), 6.18 (d, J=8.2 Hz, 1 H) 5.31 (br s, 1 H), 3.88 (s, 3 H), 3.74 (s, 3 H).

reactant | 4-(2-methoxy-4-nitrophenyl)-1-methyl-1H-pyrazole | 42.9 mmol, 10.0 g | COC1=C(C=CC(=C1)[N+](=O)[O-])C=1C=NN(C1)C | C11H11N3O3
catalyst | Palladium on carbon | 1.0 g | [Pd] | Pd
solvent | methanol | 100 mL | CO | CH4O
product | 3-methoxy-4-(1-methyl-1H-pyrazol-4-yl)aniline | 6.8 g, 78% yield | COC=1C=C(N)C=CC1C=1C=NN(C1)C | C11H13N3O
